US07678820B2
To a solution of 4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy]phenyl]-1,2,4-oxadiazol-3-yl)indoline (100 mg) in acetonitrile (2.5 ml) was added K2CO3 (46 mg) and 3-iodopropanamide (124 mg) at room temperature, followed by stirring at 80° C. for 15 hours. To the reaction solution was added an NaHCO3 aqueous saturated solution, followed by extraction with EtOAc. The organic layer was washed with saturated brine, dried over anhydrous MgSO4, and then filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:CH3OH=100:0 to 90:10) to obtain 3-(4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2,3-dihydro-1H-indol-1-yl)propanamide (23.6 mg) as a white solid.

reactant | 4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy]phenyl]-1,2,4-oxadiazol-3-yl)indoline | 100 mg | FC(C=1C=C(C=CC1OC(C(F)(F)F)C)C1=NC(=NO1)C1=C2CCNC2=CC=C1)(F)F | C20H15F6N3O2
reactant | K2CO3 | 46 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-iodopropanamide | 124 mg | ICCC(=O)N | C3H6INO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | acetonitrile | 2.5 ml | C(C)#N | C2H3N
product | 3-(4-{5-[3-(trifluoromethyl)-4-(2,2,2-trifluoro-1-methylethoxy)phenyl]-1,2,4-oxadiazol-3-yl}-2,3-dihydro-1H-indol-1-yl)propanamide | 23.6 mg | FC(C=1C=C(C=CC1OC(C(F)(F)F)C)C1=NC(=NO1)C1=C2CCN(C2=CC=C1)CCC(=O)N)(F)F | C23H20F6N4O3
